US07846929B2
To a solution of 1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-ethanol (500 mg) in dichloromethane (20 mL) at 0° C. was added triethylamine (0.28 mL) and then methanesulphonyl chloride (0.14 mL) and the reaction stirred at room temperature for 16 h. The reaction was quenched with water (20 mL) and extracted into dichloromethane (2×20 mL). The combined organic layers were washed with aqueous brine solution (2×20 mL), dried (MgSO4) and reduced in vacuo to give methanesulfonic acid 1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-ethyl ester as a yellow solid.

reactant | 1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-ethanol | 500 mg | ClC=1N=C(C2=C(N1)C=C(S2)C(C)O)N2CCOCC2 | C12H14ClN3O2S
reactant | triethylamine | 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-ethyl ester | ClC=1N=C(C2=C(N1)C=C(S2)C(C)OS(=O)(=O)C)N2CCOCC2 | C13H16ClN3O4S2
